Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Incidental finding of bradycardia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ with a history of a heart problem in ___ at age ___ who 
was
transferred for evaluation of high grade AV block which was
discovered incidentally. 
 
Per the EP note,
"He states that he had a heart problem in ___ when he
was ___. He states that he has never had a procedure before and
no procedures were done on his heart. He was told he would need 
a
procedure, but did not have this done. He was told something was
blocked in the heart and he believes it had to do with the 
veins.
He took medication for a transient period, but does know what it
was. He had the evaluation done because he had a single episode
shortness of breath which quickly resolved and did not recur.
Throughout his childhood and teens, he used to run every morning
when he was on school break and could run very far and fast
without a problem and kept pace with peers. He has not run since
coming to the ___ because he has been too busy 
working.

He came to the ___ in ___, but has not seen a
physician until now. He was about to get his commercial driver's
license which prompted the physician ___. They performed 
a
physical exam and did an EKG and told him his EKG is was
abnormal. They referred him directly to ___ 
___
on ___. He was seen by cardiology there who recommended 
transfer
to ___ for further evaluation. 

Before all of this happened, Mr. ___ states that he was
feeling well. He does experience occasional lightheadedness at
work when he is doing physical labor or when he does not eat
enough. He has never passed out and lost consciousness. He is an
"unloader" and unloads heavy palettes from trucks. He is also a
school bus monitor. He can also feel the dizziness when he sits
for a long time not doing anything.

He denies ankle edema, orthopnea, PND, and chest pain. He denies
recent fevers and infectious symptoms such as cough, myalgias,
URI sxs, nausea, vomiting, diarrhea. He denies a recent change 
in
his exertional tolerance." 

In the ED:  
Initial VS:  
T 97.3F HR 37 BP 104/61 O2 100% RA 

EKG:
Sinus rhythm, CHB with junctional escape at 44.   

Labs notable for:  
K 4.1, Cr 1.0. 
Trop negative. 
proBNP <5.
WBC 7.5, crit 45, plt 174. 

Consults:  
EP - 
Possible congenital heart block. Recommend ETT to evaluate his
ability to augment his heart rate with exercise. No prodrome to
suggest myocarditis. Recommend TTE to evaluate for diastolic
dysfunction or mitral regurgitation which could be an indication
for PPM. Cardiac MRI, potentially as outpatient. Lymte titers. 

Vitals on transfer: 
T 98.2 HR 39 BP 117/65 RR 14 O2 99% RA  

On the floor, he endorses the above history. He says that he had
a childhood illness where he was incidentally noted to have low
heart rates and was told to see a specialist, but never had the
opportunity. He currently feels entirely asymptomatic.  

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.  

On further review of systems, denies fevers or chills. Denies 
any
prior history of stroke, TIA, deep venous thrombosis, pulmonary
embolism, bleeding at the time of surgery, myalgias, joint 
pains,
cough, hemoptysis, black stools or red stools. Denies exertional
buttock or calf pain. All of the other review of systems were
negative.  

 
Past Medical History:
Possible bradycardia in childhood, though not confirmed
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. 
 
Physical Exam:
ADMISSION:
T 98.6 BP 122/65 HR 42 RR 16 O2 100 ra 
___: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP of <8 cm.  
CARDIAC: Regular rhythm and bradycardic rate. Normal S1, S2. No
murmurs, rubs, or gallops. no thrills or lifts.  
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE:
VS: ___ 0714 Temp: 98.3 PO BP: 113/62 HR: 36 RR: 18 O2 sat:
98% O2 delivery: RA 
___: Well developed, well nourished in NAD.
CARDIAC: Regular rhythm and bradycardic rate. No murmurs  
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No peripheral edema.
 
Pertinent Results:
ADMISSION LABS

___ 11:10AM BLOOD WBC-7.5 RBC-5.43 Hgb-16.0 Hct-44.7 MCV-82 
MCH-29.5 MCHC-35.8 RDW-13.6 RDWSD-40.1 Plt ___
___ 11:10AM BLOOD ___ PTT-26.3 ___
___ 11:10AM BLOOD Glucose-87 UreaN-8 Creat-1.0 Na-141 
K-5.6* Cl-104 HCO3-24 AnGap-13
___ 12:22PM BLOOD K-4.1
___ 11:10AM BLOOD Lyme Ab-NEG
___ 11:10AM BLOOD ALT-17 AST-37 CK(CPK)-295 AlkPhos-63 
TotBili-0.8

DISCHARGE LABS

___ 08:05AM BLOOD WBC-10.5* RBC-5.29 Hgb-15.6 Hct-43.9 
MCV-83 MCH-29.5 MCHC-35.5 RDW-13.4 RDWSD-40.4 Plt ___
___ 08:05AM BLOOD Plt ___
___ 08:05AM BLOOD Glucose-87 UreaN-13 Creat-1.2 Na-142 
K-4.1 Cl-104 HCO3-25 AnGap-13
___ 08:05AM BLOOD Calcium-9.8 Phos-4.5 Mg-2.0

PERTINENT STUDIES:
CXR ___:
No acute intrathoracic process.

ECG ___:
SR 88 bpn w/AV block, complete (third degree) w/narrow complex 
escape prom voltage Nonspecific T abnrm, anterolateral leads ST 
elev, probable normal early repol pattern no previous tracing 
for comparison Clinical correlation suggested. 

TTE ___:
MVP with mild mitral regurgitation (mostly diastolic secondary 
to heart block).
Normal left ventricular wall thickness and biventricular cavity 
sizes and regional/global
biventricular systolic function.

Exercise tolerance test:
This ___ yo man with h/o CHB was referred to the lab
for evaluation of heart rate response. The patient exercised for 
12
minutes of ___ protocol and was stopped at the patient's 
request for
fatigue. The estimated peak MET capacity was 12.9, which 
represents an
average exercise tolerance for his age. There were no reports of 
chest,
back, neck, or arm discomforts, or presyncopal symptoms during 
the
study. There were no significant ST changes noted during 
exercise or
recovery. Rhythm was sinus with complete heart block and rare 
isolated
VPBs during late exercise and recovery. There was a blunted 
heart rate
response to exercise in the absence of beta blockade. There was 
an
appropriate blood pressure response during exercise and 
recovery.
IMPRESSION: No anginal or presyncopal type symptoms in the 
absence of
ischemic EKG changes. Average functional capacity. Blunted heart 
rate
response due to CHB.
 
Brief Hospital Course:
Key Information for Outpatient Providers:TRANSITIONAL ISSUES:
====================
[ ] Please obtain CMR outpatient (scheduled)
[ ] please obtain follow up echocardiogram for mitral valve 
prolapse 

===================== 
ASSESSMENT AND PLAN: 
===================== 
___ with a history of a heart problem in ___ at age ___ who 
was transferred for evaluation of high grade AV block which was 
discovered incidentally. His heart rates were in the ___ and ___ 
and he remained asymptomatic.

=============== 
ACTIVE ISSUES: 
=============== 
# High grade AV block
High-grade AV block thought to be congenital given remote 
history of heart rhythm problem in childhood in ___. He 
reports overall feeling well apart from some lightheadedness 
with heavy physical work and good exercise tolerance. ETT was 
performed and max HR augmentable to 137/min but was blunted. TTE 
with mild MR ___ diastolic secondary to heart block) and 
normal left ventricular wall thickness and biventricular cavity 
sizes and regional/global biventricular systolic function. He 
was monitored on telemetry and checked for Lyme disease, which 
was negative. Electrophysiology team felt a pacemaker was not 
necessary at this time. Will follow up as outpatient ___ for 
Cardiac MRI with further outpatient follow up with 
electrophysiology regarding next steps.

================== 
CORE MEASURES: 
================== 
# LANGUAGE: ___ 
# CODE STATUS: full
# CONTACT: ___ 
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
High grade AV heart block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___! 

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because your heart rate was very slow  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- The cardiology team evaluated you and reviewed your heart 
rhythm on EKG and you underwent a stress test to look at your 
heart rate with exercise. You were able to increase your heart 
rate with exercise. 
- After careful review, the team decided to discharge you so you 
could obtain an MRI on ___

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please return to the hospital for your cardiac MRI.
- Please go to your doctors ___ as below. 
- Please call your doctor if you develop any new symptoms: 
fatigue, dizziness, lightheadedness

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___